* C:\Users\u19d36\Desktop\New folder\LT8390_DC2431A_edited.asc
C1 N017 0 100n
C2 N020 0 15n
V1 IN 0 12
R1 N004 N005 1m
C3 N009 N004 100n
M§Q1 IN N002 N004 N004 BSC014N04LSI m=2
M§Q2 N004 N007 0 0 BSC010N04LSI
L1 N005 N006 10µ Ipk=23.4 Rser=0.00186 Rpar=942 Cpar=0 mfg="Coilcraft" pn="SER2915H-103"
R2 N001 OUT 1m
M§Q3 N001 N003 N006 N006 BSC009NE2LS5I
M§Q4 N006 N008 0 0 BSC015NE2LS5I m=2
C4 N006 N010 100n
R3 N019 0 294K
R4 OUT N012 41.2k
C5 N013 0 4.7µ
C6 N015 0 470n
XU1 N007 N009 N004 N002 N004 N005 IN N013 N011 0 N015 N015 N015 N001 OUT N016 N014 N017 N012 N018 N019 0 NC_01 N001 N003 N006 N010 N008 0 LT8390
R5 N012 0 1.8k
R6 N014 N013 100k
R7 N011 0 64.9k
R8 IN N011 220k
C7 OUT 0 470µ x2 Rser=15m
R9 N018 N020 15K
C8 IN 0 180µ x2
Rload OUT 0 4.8
C9 N001 0 470µ x2 Rser=15m
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\u19d36\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 12m startup
* 0440.00197
* 0440.00282
* 0440.00284
* 0440.00323
* 0440.00329
* 0440.00148
* 0440.00175
* 0440.00003
* 0440.00003
* 0444.00072
* 0444.00072
* 0444.00090
* 0444.00072
* 0444.00059
.lib LT8390.sub
.backanno
.end
